US05360813
2 -(2,4-Dichlorophenyl)- 3-(2-naphtalenesulfonamido)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
Following the procedure described in the preceeding examples but using 3-amino-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol and 2-naphtalenesulfonylchloride, the title compound was obtained in a similar yield:

reactant | 3-amino-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | NCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C11H12Cl2N4O
reactant | 2-naphtalenesulfonylchloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | 2 -(2,4-Dichlorophenyl)- 3-(2-naphtalenesulfonamido)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)O | C21H18Cl2N4O3S
